US05104888
6-Acetoxy-4-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman (Step F1)
1 g of sodium borohydride was added, whilst ice-cooling, to a mixture of 100 ml of methanol and 10 ml of benzene containing 13 g of 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman-4-one (prepared as described in Preparation 19), and the mixture was stirred for 30 minutes whilst ice-cooling. The reaction mixture was then poured into ice-water, neutralized with 10% w/v aqueous hydrochloric acid and extracted with benzene. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography, eluted with a 4:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | sodium borohydride | 1 g | [BH4-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman-4-one | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C27H33NO7
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 10 ml, 13 g | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy-4-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)chroman | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)O | C27H35NO7
